US04833169
20.96 g (110 mmol) of p-toluenesulphonic acid chloride are added at room temperature, while stirring, to a solution of 19.2 g (100 mmol) of 7-methoxy-1,2,3,4-tetrahydro-naphthalene-2-methanol in 80 ml of absolute pyridine, the slightly exothermic reaction being maintained at room temperature with an ice bath. The reaction mixture is stirred at room temperature for 1 hour to complete the reaction and is then diluted with ice-water and extracted with diethyl ether. The organic phase is washed while ice-cold with 2N hydrochloric acid and water, is dried over sodium sulphate, filtered and concentrated by evaporation under reduced pressure. The resulting oil is crystallised from diethyl ether/pentane to yield p-toluenesulphonic acid (7-methoxy-1,2,3,4-tetrahydro-naphth-2-ylmethyl) ester of m.p. 64°-66 °.

reactant | p-toluenesulphonic acid chloride | 110 mmol, 20.96 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 7-methoxy-1,2,3,4-tetrahydro-naphthalene-2-methanol | 100 mmol, 19.2 g | COC1=CC=C2CCC(CC2=C1)CO | C12H16O2
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | p-toluenesulphonic acid (7-methoxy-1,2,3,4-tetrahydro-naphth-2-ylmethyl) ester | COC1=CC=C2CCC(CC2=C1)COS(=O)(=O)C1=CC=C(C=C1)C | C19H22O4S
